US07091214B2
The method described in Examples 178–181 was used to treat 7-bromo-2-ethoxymethyl-1-(piperidin-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine dihydrochloride (4.95 g, 10.1 mmol) with methanesulfonic anhydride (1.76 g, 10.1 mmol). The reaction was carried out in dichloromethane (150 mL). Following chromatographic purification (eluting with chloroform:CMA in a gradient from 100:0 to 90:10), the product was recrystallized from ethyl acetate to provide 2.37 g of 7-bromo-2-ethoxymethyl-1-{[1-(methanesulfonyl)piperidin-4-yl]methyl}-1H-imidazol[4,5-c]quinolin-4-amine as a white, crystalline solid, mp 233–234° C.

reactant | 7-bromo-2-ethoxymethyl-1-(piperidin-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine dihydrochloride | 10.1 mmol, 4.95 g | Cl.Cl.BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC3CCNCC3)COCC
reactant | methanesulfonic anhydride | 10.1 mmol, 1.76 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 7-bromo-2-ethoxymethyl-1-{[1-(methanesulfonyl)piperidin-4-yl]methyl}-1H-imidazol[4,5-c]quinolin-4-amine | 2.37 g | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC3CCN(CC3)S(=O)(=O)C)COCC | C20H26BrN5O3S
